US07001897B2
To a solution of 3-hydroxy-1-[4-(3-methoxyazetidine-1-carbonyl)-1,3-thiazol-2-yl]azetidine (480 mg, 1.71 mmol) (obtained as described in Reference Example 31(3)) in methylene chloride (25 ml) were added methanesulfonyl chloride (397 μl, 5.13 mmol) and triethylamine (719 μl, 5.13 mmol) in an ice bath. After stirring the mixture in the ice bath for 10 minutes, the mixture was stirred at room temperature for 1 hour. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate:methanol (95:5) as the eluant to afford 3-methanesulfonyloxy-1-[4-(3-methoxyazetidine-1-carbonyl)-1,3-thiazol-2-yl]azetidine (568 mg, yield 96%) as a pale yellow solid.

reactant | 3-hydroxy-1-[4-(3-methoxyazetidine-1-carbonyl)-1,3-thiazol-2-yl]azetidine | 1.71 mmol, 480 mg | OC1CN(C1)C=1SC=C(N1)C(=O)N1CC(C1)OC | C11H15N3O3S
reactant | methanesulfonyl chloride | 5.13 mmol, 397 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 5.13 mmol, 719 μl | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 3-methanesulfonyloxy-1-[4-(3-methoxyazetidine-1-carbonyl)-1,3-thiazol-2-yl]azetidine | 568 mg, yield 96% | CS(=O)(=O)OC1CN(C1)C=1SC=C(N1)C(=O)N1CC(C1)OC | C12H17N3O5S2
